US07235676B2
To a mechanically stirred solution of indene (0.01 mol), dodecane (0.001 mol), urea (0.208 mol), sodium bicarbonate (0.003 mol) and manganese sulphate (0.1 mmol) in 10.0 ml of water at 20° C. is added 30% aqueous hydrogen peroxide (0.4 mol) in three equal portions over a period of 3 hours. After 10 hours the reaction mixture was extracted with 4×5 ml diethyl ether. The combined organic layer was dried over anhydrous sodium sulphate. Removal of solvent yielded indene oxide in >99% yield with selectivity 95%.

reactant | indene | 0.01 mol | C1C=CC2=CC=CC=C12 | C9H8
reactant | dodecane | 0.001 mol | CCCCCCCCCCCC | C12H26
reactant | urea | 0.208 mol | NC(=O)N | CH4N2O
reactant | sodium bicarbonate | 0.003 mol | C([O-])(O)=O.[Na+]
reactant | hydrogen peroxide | 0.4 mol | OO | H2O2
solvent | water | 10.0 ml | O | H2O
catalyst | manganese sulphate | 0.1 mmol | S(=O)(=O)([O-])[O-].[Mn+2]
product | indene oxide | >99% yield | C12C(CC3=CC=CC=C13)O2 | C9H8O
